US07132428B2
b) 5-Methoxymethyl-3-methyl-1H-pyrazolo[4,3-c]isoquinoline (BA).
To a suspension of 320 mg of 2-methoxy-N-(3-methyl-5-phenyl-1H-pyrazol-4-yl)-acetamide in 6 mL of phosphorous oxychloride was added 2.70 g of phosphorous pentoxide and the resulting suspension was heated at 120° C. for 5 h. The reaction mixture was cooled to rt and quenched with the addition of ice and water and then neutralized with solid sodium carbonate. The aqueous mixture was extracted with ethyl acetate and the combined organic extracts were washed with brine, dried (magnesium sulfate) and concentrated under reduced pressure. The residue was purified by recrystallisation from ethyl acetate. The title compound was obtained as a reddish, tan solid.

reactant | 2-methoxy-N-(3-methyl-5-phenyl-1H-pyrazol-4-yl)-acetamide | 320 mg | COCC(=O)NC=1C(=NNC1C1=CC=CC=C1)C | C13H15N3O2
reactant | phosphorous pentoxide | 2.70 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | phosphorous oxychloride | 6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-Methoxymethyl-3-methyl-1H-pyrazolo[4,3-c]isoquinoline | COCC1=NC2=C(C=3C=CC=CC13)NN=C2C | C13H13N3O
